US08895545B2
a) 7-Bromo-4-methyl-2,3,4,5-tetrahydro-1H-pyrido[2,3-e][1,4]diazepine hydrobromide
7-bromo-4-methyl-1,3,4,5-tetrahydro-pyrido[e][1,4]diazepin-2-one (1.67 g, 6.55 mmol) was reduced to give a 1:1 mixture of the title compound and 4-methyl-2,3,4,5-tetrahydro-1H-benzo[e][1,4]diazepine. The mixture was dissolved in acetic acid (12 mL), treated with bromine (1.04 g, 6.5 mmol) and stirred at room temperature overnight. Ether (100 mL) was added and the precipitate was isolated by filtration to yield the title compound as an orange solid (2.04 g, 95%). 1H NMR (300 MHz, DMSO-d6) δ10.23 (s, 1H) 8.16 (d, J=2.3 Hz, 1H), 7.84 (d, J=2.0 Hz, 1H), 6.89 (s, 1H), 4.25-4.48 (m, 2H), 3.54-3.58 (m, 2H), 3.28-3.35 (m, 2H), 2.86-2.87 (m, 3H); MS (ESI) m/e 242 (C9H12BrN3+H)+.

reactant | 7-bromo-4-methyl-1,3,4,5-tetrahydro-pyrido[e][1,4]diazepin-2-one | 6.55 mmol, 1.67 g | BrC1=CC2=C(NC(CN(C2)C)=O)N=C1 | C9H10BrN3O
reactant | 4-methyl-2,3,4,5-tetrahydro-1H-benzo[e][1,4]diazepine | CN1CCNC2=C(C1)C=CC=C2 | C10H14N2
product | 7-Bromo-4-methyl-2,3,4,5-tetrahydro-1H-pyrido[2,3-e][1,4]diazepine hydrobromide | Br.BrC1=CC2=C(NCCN(C2)C)N=C1 | InChI=1S/C9H12BrN3.BrH/c1-13-3-2-11-9-7(6-13)4-8(10)5-12-9;/h4-5H,2-3,6H2,1H3,(H,11,12);1H
